US20010027196A1
4-Furan-2-yl-5-iodo-6-(3-phenyl-propoxy)-pyrimidin-2-yl-amine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine, 3-phenylpropanol and DBU in THF. ES-MS m/e (%): 422 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | 3-phenylpropanol | C1(=CC=CC=C1)CCCO | C9H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Furan-2-yl-5-iodo-6-(3-phenyl-propoxy)-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)OCCCC1=CC=CC=C1)N | C17H16IN3O2
